US07456315B2
20 g (0.232 mol) of pivaldehyde dissolved in 600 mL of THF was added to a 2 L 3-neck round bottom flask equipped with a magnetic stir bar, thermometer and rubber stopper. The vessel was maintained under N2. The reaction mixture was cooled to −65° C. in a dry ice/acetone bath. 112 mL (0.279 mol) of a 2.5 M BuLi solution in hexane was slowly added in 5 mL portions with a 20 mL glass syringe, maintaining the temperature below −55° C. The reaction was stirred at −60° C. for one hour, then allowed to warm to −5° C. over one hour. The reaction was cooled again to −60° C. and slowly quenched with NH4Cl/H2O solution, maintaining the temperature below −50° C. 100 mL of water were added and the reaction was allowed to warm to room temperature. The THF was removed on a rotary evaporator with a bath temperature of 25° C. until an oil was observed. The product was extracted with ethyl ether, and the ether was dried and evaporated carefully to yield 31.0 g of 2,2-dimethyl-heptan-3-ol that was used directly in a subsequent oxidation reaction. 1H NMR (CDCl3, 500 MHz) δ (ppm): 3.2 (m, 1H), 1.2-1.7 (m, 3H), 0.93 (m, 3H), 0.89 (s, 9H).

reactant | pivaldehyde | 0.232 mol, 20 g | CC(C)(C)C=O | C5H10O
reactant | BuLi | 2.5 M | [Li]CCCC
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2,2-dimethyl-heptan-3-ol | 31.0 g | CC(C)(C(CCCC)O)C | C9H20O
